US07820704B2
2-Bromo-1-(4-isopropyl-phenyl)-ethanone was prepared (0.95 g) following general procedure A using 1-(4-isopropyl-phenyl)-ethanone (0.66 mL, 3.92 mmol) and pyrrolidone hydrotribromide (2.1 g, 4.31 mmol).

reactant | 1-(4-isopropyl-phenyl)-ethanone | 3.92 mmol, 0.66 mL | C(C)(C)C1=CC=C(C=C1)C(C)=O | C11H14O
reactant | pyrrolidone hydrotribromide | 4.31 mmol, 2.1 g | C1CC(=O)NC1.Br[Br-]Br
product | 2-Bromo-1-(4-isopropyl-phenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)C(C)C | C11H13BrO
